US06087380
1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 76% of theory, Rf value: 0.17 (silica gel; dichloromethane/ethanol=4:1) C27H27N5O4 (485.6) ##EQU21##

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C27H24N4O4
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride | Yield: 76% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C27H27N5O4.ClH/c1-3-35-25(33)16-32(20-7-5-4-6-8-20)27(34)19-11-14-23-22(15-19)30-24(31(23)2)17-36-21-12-9-18(10-13-21)26(28)29;/h4-15H,3,16-17H2,1-2H3,(H3,28,29);1H
